US07723330B2
Step A: Preparation of 1-(4-methoxybenzyl)-N-(2-morpholinoethyl)-1H-pyrazolo[3,4-b]pyridin-4-amine:
1-(4-methoxybenzyl)-4-chloro-1H-pyrazolo[3,4-b]pyridine (0.200 g, 0.731 mmol) was charged to a pressure tube in 5 mL of NMP. 2-morpholinoethanamine (0.144 ml, 1.10 mmol) was added and the reaction was heated to 150° C. for 72 hours. After cooling, the reaction mixture was diluted with 25 mL of EtOAc and washed with water (2×15 mL) and then dried with brine and Na2SO4. Purification via flash Si 10 g eluting with 1-5% MeOH/DCM with NH4OH to afford 151 mg (55%) of product as a yellow oil. 1H NMR (400 MHz, CDCl3) δ 8.20 (d, 1H), 7.92 (s, 1H), 7.30 (t, 2H), 6.83 (m, 2H), 6.14 (d, 1H), 5.56 (s, 2H), 5.41 (s, 1H), 3.75 (m, 7H), 3.44 (m, 2H), 2.73 (t, 2H), 2.51 (bs, 4H).

reactant | 1-(4-methoxybenzyl)-4-chloro-1H-pyrazolo[3,4-b]pyridine | 0.731 mmol, 0.200 g | COC1=CC=C(CN2N=CC=3C2=NC=CC3Cl)C=C1 | C14H12ClN3O
reactant | 2-morpholinoethanamine | 1.10 mmol, 0.144 ml | O1CCN(CC1)CCN | C6H14N2O
solvent | NMP | 5 mL | CN1CCCC1=O | C5H9NO
solvent | EtOAc | 25 mL | CCOC(=O)C | C4H8O2
product | 1-(4-methoxybenzyl)-N-(2-morpholinoethyl)-1H-pyrazolo[3,4-b]pyridin-4-amine | 151 mg, 55% | COC1=CC=C(CN2N=CC3=C2N=CC=C3NCCN3CCOCC3)C=C1 | C20H25N5O2
